US07122543B2
N-[4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridyl)benzoyl]-4-trifluoromethylaniline
N-[4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoyl]-4-trifluoromethylaniline (55 mg, 0.0971 mmol) was dissolved in a mixed solvent of acetonitrile (3 ml) and water (1 ml), then CAN (157 mg, 0.2918 mmol) was added thereto at room temperature and the mixture was stirred for 2 hours. The reaction solution was poured into water and extracted with ethyl acetate. The extract was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by preparative thin layer chromatography (methylene chloride:methanol=95:5) to give the title compound (10 mg, 0.0186 mmol, 19%).

reactant | N-[4-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoyl]-4-trifluoromethylaniline | 0.0971 mmol, 55 mg | COC=1C(=C(CC2=CC(=C(C(=O)NC3=CC=C(C=C3)C(F)(F)F)C=C2)C=2C=NC=CC2)C(=C(C1OC)OC)OC)C | C31H29F3N2O5
reactant | CAN | 0.2918 mmol, 157 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | water | 1 ml | O | H2O
product | N-[4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridyl)benzoyl]-4-trifluoromethylaniline | 0.0186 mmol, 10 mg, 19% | COC=1C(C(=C(C(C1OC)=O)CC1=CC(=C(C(=O)NC2=CC=C(C=C2)C(F)(F)F)C=C1)C=1C=NC=CC1)C)=O | C29H23F3N2O5
